US07737149B2
Palladium(II) acetate (52.1 mg, 0.23 mmol) followed by sodium tert-butoxide (624 mg, 6.49 mmol) was added to a stirred solution of ethyl 5-bromothiophene-2-carboxylate (1090 mg, 4.64 mmol), homopiperazine (511 mg, 5.10 mmol) and (rac)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (289 mg, 0.46 mmol) in toluene (20 mL) at 25° C. under nitrogen. The resulting suspension was stirred at 110° C. for 3 h. The cooled reaction mixture was diluted with MeOH and the crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions containing the desired product were evaporated to dryness to afford impure product as a brown oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7N NH3/MeOH in DCM and then 0 to 3% NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 5-(4-ethylpiperazin-1-yl)thiophene-2-carboxylate (195 mg, 17%) as a yellow oil.

reactant | sodium tert-butoxide | 6.49 mmol, 624 mg | CC(C)([O-])C.[Na+]
reactant | ethyl 5-bromothiophene-2-carboxylate | 4.64 mmol, 1090 mg | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
reactant | homopiperazine | 5.10 mmol, 511 mg | N1CCNCCC1 | C5H12N2
reactant | (rac)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.46 mmol, 289 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
catalyst | Palladium(II) acetate | 0.23 mmol, 52.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 5-(4-ethylpiperazin-1-yl)thiophene-2-carboxylate | 195 mg, 17% | C(C)N1CCN(CC1)C1=CC=C(S1)C(=O)OCC | C13H20N2O2S
